US05164391
(2S,4S)-N-[2-(4-Benzylpiperidin-1-yl)ethyl]-6-fluoro-2'5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carboxamide
A mixture of N-(2-aminoethyl)-4-benzylpiperidine (13.0 g, 59.6 mmol), 1,8-diazabicyclo[5,4,0]-7-undecene (10.9 g, 71.7 mmol) and N,N-dimethylformamide (90.0 ml, 1.16 mol) was chilled to -30° C. To the mixture was added over 30 minutes a solution of (2S, 4S)-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carbonyl chloride (Reference Example, 18.0 g, 60.3 mmol) in N,N-dimethylformamide (90.0 ml, 1.16 mol) and the mixture was stirred for 15 hours at temperature of 15°-25° C. After distilling off the solvent, the reaction mixture was chromatographed on silica gel, eluted with CH2Cl2 /MeOH (9/1) and evaporated in vacuo to dryness to give the desired compound (14.3 g, 50.0%) as colorless amorphous substance.

reactant | N-(2-aminoethyl)-4-benzylpiperidine | 59.6 mmol, 13.0 g | NCCN1CCC(CC1)CC1=CC=CC=C1 | C14H22N2
reactant | 1,8-diazabicyclo[5,4,0]-7-undecene | 71.7 mmol, 10.9 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | N,N-dimethylformamide | 1.16 mol, 90.0 ml | CN(C=O)C | C3H7NO
reactant | (2S, 4S)-6-fluoro-2',5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carbonyl chloride | 60.3 mmol, 18.0 g | FC=1C=C2C(=CC1)O[C@@H](C[C@]21NC(NC1=O)=O)C(=O)Cl | C12H8ClFN2O4
reactant | N,N-dimethylformamide | 1.16 mol, 90.0 ml | CN(C=O)C | C3H7NO
product | (2S,4S)-N-[2-(4-Benzylpiperidin-1-yl)ethyl]-6-fluoro-2'5'-dioxospiro[chroman-4,4'-imidazolidine]-2-carboxamide | 14.3 g, 50.0% | C(C1=CC=CC=C1)C1CCN(CC1)CCNC(=O)[C@H]1OC2=CC=C(C=C2[C@@]2(NC(NC2=O)=O)C1)F | C26H29FN4O4
